US04833164
Methyl 7-(1-benzyloxy-2-naphthyl)-5-heptynoate
To a solution of boron trifluoride etherate (5.0 mL, 0.041 mole) in methylene chloride (150 mL) at 0°, triethylsilane (20 mL, 0.126 mole) was added, followed by a solution of methyl 7-(1-benzyloxy-2-naphthyl)-7-hydroxy-5-heptynoate (5.00 g, 0.013 mole) in methylene chloride (20 mL). The mixture was stirred for 30 minutes, then poured into saturated aqueous potassium carbonate. The crude product was isolated by extraction with ether, and chromatographed with 1:1 ether/hexane. This provided the title compound (2.42 g, 50%) as an oil.

reactant | boron trifluoride etherate | 0.041 mole, 5.0 mL | B(F)(F)F.CCOCC
reactant | triethylsilane | 0.126 mole, 20 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | methyl 7-(1-benzyloxy-2-naphthyl)-7-hydroxy-5-heptynoate | 0.013 mole, 5.00 g | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC=C12)C(C#CCCCC(=O)OC)O | C25H24O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | Methyl 7-(1-benzyloxy-2-naphthyl)-5-heptynoate | 2.42 g, 50% | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC=C12)CC#CCCCC(=O)OC | C25H24O3
